US07034034B2
Ammonium acetate (26 g, 0.34 mol) was added to a solution of {4-[2-Oxo-2-(3-trifluoromethyl-phenyl)-ethylcarbamoyl]-cyclohexylmethyl}-carbamic acid benzyl ester (5.4 g, 0.0113 mol) in acetic acid. The resulting homogeneous mixture was refluxed overnight and then concentrated under reduced pressure. The residue was partitioned between 10% NaOH and EtOAc (1:1) and the EtOAc layer was washed with 10% NaOH (3×) and brine. The EtOAc was dried (Na2SO4) and concentrated under reduced pressure to give {4-[4-(3-Trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexylmethyl}-carbamic acid benzyl ester. 1H NMR (CDCl3): δ 1.02–1.18 (m, 2H), 1.46–1.62 (m, 3H), 1.86–1.96 (m, 2H), 2.12–2.21 (m, 2H), 2.74 (m, 1H), 3.10 (t, J=6 Hz, 2H), 4.91 (t, 1H, N—H), 5.10 (s, 2H), 7.22 (s, 1H), 7.32–7.37 (m, 5H), 7.45 (d, J=4.9 hz, 2H), 7.87 (m, 1H), 7.95 (s, 1H). MS 458 (M+H)+

reactant | Ammonium acetate | 0.34 mol, 26 g | C(C)(=O)[O-].[NH4+]
reactant | {4-[2-Oxo-2-(3-trifluoromethyl-phenyl)-ethylcarbamoyl]-cyclohexylmethyl}-carbamic acid benzyl ester | 0.0113 mol, 5.4 g | C(C1=CC=CC=C1)OC(NCC1CCC(CC1)C(NCC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)=O | C25H27F3N2O4
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | {4-[4-(3-Trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexylmethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F)=O | C25H26F3N3O2
